US08895570B2
(ii) Methyl (4-formylphenyl)acetate
To a mixture of N-methylmorpholine-N-oxide (63.9 g, 545 mmol) in MeCN (848 g) and toluene (742 g), was added a solution of methyl [4-(bromomethyl)phenyl]acetate (53.0 g) in toluene (212 g) at 0 to 25° C. After stirring for 5 hr, water (106 g) was added to the reaction mixture. The aqueous layer was removed and remaining MeCN in the organic layer was removed under reduced pressure. The remaining toluene solution was washed with water twice (530 g×2), and concentrated under reduced pressure at a temperature below 40° C. until the weight of the solution was 233 g. An activated charcoal (3 g) was added to the solution and removed by filtration. To the solution was added 2,6-dibutyl-4-hydroxytoluene (152 mg), and concentrated under reduced pressure to give the subtitle compound. Yield 30.9 g, 79% from methyl [4-(bromomethyl)phenyl]acetate; 1H NMR (DMSO-d6) δ 9.99 (s, 1H), 7.87 (d, 2H), 7.86 (d, 2H), 3.83 (s, 2H), 3.63 (s, 3H)

reactant | N-methylmorpholine-N-oxide | 545 mmol, 63.9 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | methyl [4-(bromomethyl)phenyl]acetate | 53.0 g | BrCC1=CC=C(C=C1)CC(=O)OC | C10H11BrO2
reactant | water | 106 g | O | H2O
solvent | MeCN | 848 g | CC#N | C2H3N
solvent | toluene | 742 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 212 g | C1(=CC=CC=C1)C | C7H8
product | Methyl (4-formylphenyl)acetate | C(=O)C1=CC=C(C=C1)CC(=O)OC | C10H10O3
